US07652041B2
Step 2. Preparation of 5-{4-[3-(3-{[4-chloro-3-(trifluoromethyl)phenyl]amino}-3-oxopropyl)phenoxy]pyridin-2-yl}-1,3,4-oxadiazole-2-carboxamide (A-102)
A solution of ethyl 5-{4-[3-(3-{[4-chloro-3-(trifluoromethyl)phenyl]-amino}-3-oxopropyl)phenoxy]pyridin-2-yl}-1,3,4-oxadiazole-2-carboxylate (100 mg) in NH4OH (10 mL) was allowed to stir at rt for 90 min. The reaction mixture was concentrated and the residue recrystallized from MeOH to give A-102. 1H NMR (300 MHz, d6-DMSO) δ: 8.70 (br s, 1H), 8.62 (d, 1H), 8.29 (br s, 1H), 8.13 (d, 1H), 7.76 (dd, 1H), 7.58-7.64 (m, 2H), 7.45 (t, 1H), 7.23-7.28 (m, 1H), 7.14-7.19 (m, 2H), 7.07-7.13 (m, 1H), 2.97 (t, 2H), and 2.69 (t, 2H). LCMS, FA: Rt=1.77 min, [MH+ 532.1].

reactant | ethyl 5-{4-[3-(3-{[4-chloro-3-(trifluoromethyl)phenyl]-amino}-3-oxopropyl)phenoxy]pyridin-2-yl}-1,3,4-oxadiazole-2-carboxylate | 100 mg | ClC1=C(C=C(C=C1)NC(CCC=1C=C(OC2=CC(=NC=C2)C2=NN=C(O2)C(=O)OCC)C=CC1)=O)C(F)(F)F | C26H20ClF3N4O5
reactant | NH4OH | 10 mL | [NH4+].[OH-]
product | 5-{4-[3-(3-{[4-chloro-3-(trifluoromethyl)phenyl]amino}-3-oxopropyl)phenoxy]pyridin-2-yl}-1,3,4-oxadiazole-2-carboxamide | ClC1=C(C=C(C=C1)NC(CCC=1C=C(OC2=CC(=NC=C2)C2=NN=C(O2)C(=O)N)C=CC1)=O)C(F)(F)F | C24H17ClF3N5O4
